US05741933
A 1-liter, 4-necked flask equipped with a stirrer, thermometer, condenser and gas inlet tube was charged with 227.5 g (1.00 mole) of 4-chlorophenyl dichloromethyl sulfide, 50 g of water and 500 g of methanol. The mixture was heated to 70° C. for 5 hours to complete hydrolysis. After completion of the reaction, 357 g (1.05 moles) of 10% aqueous solution of hydrogen peroxide was added dropwise at 40° C. over a period of 1 hour. The mixture was stirred for 1 hour at the same temperature. The precipitated crystals were filtered, giving 134.7 g of 4,4'-dichlorodiphenyl disulfide in a yield of 93.9% based on 4-chlorophenyl dichloromethyl sulfide.

reactant | 4-chlorophenyl dichloromethyl sulfide | 1.00 mole, 227.5 g | ClC(Cl)SC1=CC=C(C=C1)Cl | C7H5Cl3S
reactant | water | 50 g | O | H2O
reactant | hydrogen peroxide | OO | H2O2
solvent | methanol | 500 g | CO | CH4O
product | 4,4'-dichlorodiphenyl disulfide | 134.7 g, yield of 93.9% | C1=CC(=CC=C1SSC2=CC=C(C=C2)Cl)Cl | C12H8Cl2S2
